US06638947B2
4-(4-Fluorophenoxy)benzaldehyde carbomethoxyhydrazone
To a solution of 4-(4-fluorophenoxy)benzaldehyde (277 mg, 1.28 mmol) in ethanol (10 mL) was added a solution of carbomethoxyhydrazine (180 mg, 2.0 mmol) in water (5 mL), followed by AcOH (0.1 mL) at room temperature. The mixture was stirred at room temperature for 17 h and water (20 mL) was added. The resulting solid was collected by filtration, washed with water and dried in vacuo to yield the title compound as a white solid (228 mg, 0.74 mmol, 58%),mp: 109-111° C. 1HNMR (DMSO-d6): δ 11.05 (s, 1H), 8.00 (s, 1H), 7.64 (d, J=8.7, 2H), 7.30-6.99 (m, 6H, 3.69 (s, 3H).

reactant | 4-(4-fluorophenoxy)benzaldehyde | 1.28 mmol, 277 mg | FC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C13H9FO2
reactant | carbomethoxyhydrazine | 2.0 mmol, 180 mg | C(=O)(OC)NN | C2H6N2O2
reactant | AcOH | 0.1 mL | CC(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-(4-Fluorophenoxy)benzaldehyde carbomethoxyhydrazone | 0.74 mmol, 228 mg, 58% | C(=O)(OC)NN=CC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C15H13FN2O3
